US06878831B2
2) 2-Chloro-5,5-dimethyl-4-(2-naphthyl)-1,3,2-dioxaphosphorinane 2-oxide
2,2-Dimethyl-1-(2-naphthyl)-1,3-propanediol (34.86 g, (0.151 mol) and triethylamine (42.9 g, 0.424 mol) were dissolved in dichloromethane (200 ml). Phosphorus oxychloride (24.3 g, 0.158 mol) dissolved in dichloromethane (50 ml) was added dropwise to the above solution under cooling to 1 to 4° C. with stirring for 1 hr 40 min. The solution was stirred at the same temperature for 1 hr, and water (60 ml) was added thereto to partition the solution. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. To the obtained dark brown oil was added ether (50 ml) and the mixture was stirred thoroughly and left at room temperature overnight. The solidified reaction product was pulverized, filtered, washed with ether and dried to give the title compound (38.62 g, yield 82.1%).

reactant | 2,2-Dimethyl-1-(2-naphthyl)-1,3-propanediol | CC(C(O)C1=CC2=CC=CC=C2C=C1)(CO)C | C15H18O2
reactant | triethylamine | 0.424 mol, 42.9 g | C(C)N(CC)CC | C6H15N
reactant | Phosphorus oxychloride | 0.158 mol, 24.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 60 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Chloro-5,5-dimethyl-4-(2-naphthyl)-1,3,2-dioxaphosphorinane 2-oxide | 38.62 g, yield 82.1% | ClP1(OCC(C(O1)C1=CC2=CC=CC=C2C=C1)(C)C)=O | C15H16ClO3P
